US05610293
H. Synthesis of [Manganese(II)dichloro(2-Propargyl-1,4,7,10,13-pentaazacyclopentadecane)]
A solution of 2-propargyl-1,4,7,10,13-pentaazacyclopentadecane prepared as in Example 29G (310 mg, 1.22 mmol) and anhydrous manganese(II) chloride (154 mg, 1.22 mol) in methanol (50 ml) were refluxed under a dry nitrogen atmosphere for 2 h and then stirred overnight at room temperature. The solution was taken to dryness, redissolved in absolute ethanol (15 ml) and filtered through celite. Concentration and recrystallization from ethanol-ether afforded 370 mg (80% yield) of white microcrystalline product: FAB mass spectrum (NBA) m/z (relative intensity) 378 (M+, 2), 343/345 ((M-Cl)+, 100/30); Anal. calcd. for C13H27Cl2MnN5 : C, 41.14; H, 7.18; N, 18.47. Found: C, 40.49; H, 6.56; N, 18.14.

reactant | 2-propargyl-1,4,7,10,13-pentaazacyclopentadecane | C(C#C)C1NCCNCCNCCNCCNC1 | C13H27N5
reactant | manganese(II) chloride | 1.22 mol, 154 mg | [Cl-].[Mn+2].[Cl-]
solvent | methanol | 50 ml | CO | CH4O
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | Manganese(II)dichloro(2-Propargyl-1,4,7,10,13-pentaazacyclopentadecane) | 370 mg, 80% yield | ClC1(N(CCNCCNCCNCCNC1)Cl)CC#C.[Mn+2] | InChI=1S/C13H25Cl2N5.Mn/c1-2-3-13(14)12-19-9-8-17-5-4-16-6-7-18-10-11-20(13)15;/h1,16-19H,3-12H2;/q;+2
